US04665181
6-Phenethyl-1(2H)-phthalazinone
A slurry of 11.2 gm 6-(2-phenylethenyl)-1(2H)-phthalazinone, from the previous example, in 115 ml dimethylformamide was hydrogenated with 1.0 gm 10% palladium on carbon catalyst at 50 psig for 3 hours. The catalyst was filtered off and rinsed with a little dimethylformamide. The filtrate was added to 5 volumes of water, stirred for a few minutes, filtered, washed with water and air dried. Wt=7.8 gm, m.p.=190°-193°. After recrystallization from 80 ml n-butanol the product weighed 6.4 gm and melted at 192°-193°.

reactant | 6-(2-phenylethenyl)-1(2H)-phthalazinone | 11.2 gm | C1(=CC=CC=C1)C=CC=1C=C2C=NNC(C2=CC1)=O | C16H12N2O
solvent | dimethylformamide | 115 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 1.0 gm | [Pd] | Pd
product | 6-Phenethyl-1(2H)-phthalazinone | C(CC1=CC=CC=C1)C=1C=C2C=NNC(C2=CC1)=O | C16H14N2O
